* C:\Users\jagan\OneDrive\Desktop\IE RX DESIGN\FinalRx.asc
V1 N006 0 PULSE(0 1 0 0 0 0.5m 1m)
V4 NC_01 N006 SINE(0 1 23k)
R20 N005 0 47k
R21 N001 N005 10k
R22 N001 N003 330
R23 N008 0 100
Q3 N003 N005 N008 0 2N2222
V9 N001 0 5
C9 N008 0 100µ
C11 N005 N004 10µ
R24 N009 0 1
D2 N003 N009 D
D3 NC_02 P001 1N5817
C10 N007 P001 100n
R12 N007 0 10k
V6 N023 0 SINE(0 3m 1k)
R45 N025 0 10k
R46 N011 N025 13.36k
R47 N011 N022 1k
R48 N033 0 1.1k
Q1 N022 N025 N033 0 2N2222
V14 N011 0 5
C21 N033 0 10µ
C22 NC_03 N022 10µ
C23 N025 P002 10µ
R49 P002 NC_04 10k
R7 N024 0 10k
R8 N010 N024 15k
R9 N010 N020 1k
R10 N032 0 1k
Q2 N020 N024 N032 0 2N2222
V5 N010 0 5
C6 N032 0 10µ
C8 N024 P003 10µ
R13 P003 N023 10k
D6 NC_05 NC_06 1N5817
R14 N030 0 20k
R16 N012 N030 100k
R17 N012 N028 20k
R18 N035 0 1.5k
Q5 N028 N030 N035 0 2N2222
V7 N012 0 5
C12 N035 0 10µ
R15 N026 0 10k
C15 N026 N028 10µ
C1 N027 N020 10µ
R1 0 N027 50k
R2 N015 N026 18000
R3 N031 N015 8000
R4 N019 N016 5.86k
R5 0 N019 10k
R6 N015 0 14500
C2 N031 0 1n
XU1 N031 N019 N018 N034 N016 LT1001
c3 N016 N015 1n
V2 0 N034 5
V3 N018 0 5
XU2 N029 N021 N018 N034 N014 LT1001
C4 N013 N016 100n
C5 N029 N013 100n
R11 N014 N013 1600
R19 N014 N021 5.86k
R25 N021 0 10k
R26 N029 0 1600
R27 0 N014 10k
.model D D
.lib C:\Users\jagan\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\jagan\AppData\Local\LTspice\lib\cmp\standard.bjt
* .tran 10m
.tran 10m
.model 2N2222 NPN(IS=1E-14 VAF=100 BF=150 IKF=0.3 XTB=1.5 BR=3 CJC=8E-12 CJE=25E-12 TR=100E-9 TF=400E-12 ITF=1 VTF=2 XTF=3 RB=10 RC=.3 RE=.2 Vceo=30 Icrating=800m mfg=NXP)
.lib LTC.lib
.backanno
.end
